US04382089
A mixture of 7.07 g (45 mmol) of N-acetyl-L-proline, 5.85 ml (45 mmol) isobutyl chloroformate, 4.95 ml 45 mmol) N-methyl morpholine, and 90 ml of dichloromethane is stirred at -10° to -20° for 30 minutes. A mixture of 6.13 g (30 mmol) of 6-amino-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, 12.6 ml (90 mmol) triethylamine, 11.4 ml (90 mmol) chlorotrimethylsilane, and 150 ml of dichloromethane is stirred at room temperature for 30 minutes and then is cooled to -20°. The cold mixed anhydride solution is added to the cold silylated quinoline and is stirred with cooling for 4 hours and at room temperature ovenight. The reaction mixture is evaporated to dryness and the residue is treated with 1 N hydrochloric acid and the solid is filtered. The solid is digested with ethanol and filtered to give 6.43 g of 6-[[(1-acetyl- 2-pyrrolidinyl)-carbonyl]amino]-1,4-dihydro-4-oxo-quinolinecarboxylic acid.

reactant | N-acetyl-L-proline | 45 mmol, 7.07 g | C(C)(=O)N1[C@H](C(=O)O)CCC1 | C7H11NO3
reactant | isobutyl chloroformate | 45 mmol, 5.85 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methyl morpholine | CN1CCOCC1 | C5H11NO
reactant | 6-amino-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 30 mmol, 6.13 g | NC=1C=C2C(C(=CNC2=CC1)C(=O)O)=O | C10H8N2O3
reactant | triethylamine | 90 mmol, 12.6 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 90 mmol, 11.4 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | 6-[[(1-acetyl- 2-pyrrolidinyl)-carbonyl]amino]-1,4-dihydro-4-oxo-quinolinecarboxylic acid | 6.43 g | C(C)(=O)N1C(CCC1)C(=O)NC=1C=C2C(C=C(NC2=CC1)C(=O)O)=O | C17H17N3O5
